US07915267B2
A solution of N-[(3-aminophenyl)methyl]-6-cyano-4-oxo-3,4-dihydroquinazoline-2-carboxamide obtained in Reference Example 45 (120 mg, 0.376 mmol), 3-[1-(triphenylmethyl)-1H-1,2,4-triazol-3-yl]propanoic acid obtained in Reference Example 25 (152 mg, 0.396 mmol), 1-[3-(dimethylamino)propyl]-3-ethyl-carbodiimide hydrochloride (106 mg, 0.554 mmol) and 1-hydroxybenzotriazole (74.9 mg, 0.554 mmol) in DMF (5 mL) was stirred at 40° C. for 15 hr. The reaction mixture was concentrated under reduced pressure, and water was added to residue. The resulting solid was collected by filtration, washed with water and IPE, and dried to give 6-cyano-4-oxo-N-{[3-({3-[1-(triphenylmethyl)-1H-1,2,4-triazol-3-yl]propanoyl}amino)phenyl]methyl}-3,4-dihydroquinazoline-2-carboxamide as a white powder (232.0 mg, 86%).

reactant | N-[(3-aminophenyl)methyl]-6-cyano-4-oxo-3,4-dihydroquinazoline-2-carboxamide | NC=1C=C(C=CC1)CNC(=O)C1=NC2=CC=C(C=C2C(N1)=O)C#N | C17H13N5O2
reactant | 3-[1-(triphenylmethyl)-1H-1,2,4-triazol-3-yl]propanoic acid | C1(=CC=CC=C1)C(N1N=C(N=C1)CCC(=O)O)(C1=CC=CC=C1)C1=CC=CC=C1 | C24H21N3O2
reactant | 1-[3-(dimethylamino)propyl]-3-ethyl-carbodiimide hydrochloride | 0.554 mmol, 106 mg | Cl.CN(CCCN=C=NCC)C
reactant | 1-hydroxybenzotriazole | 0.554 mmol, 74.9 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | 6-cyano-4-oxo-N-{[3-({3-[1-(triphenylmethyl)-1H-1,2,4-triazol-3-yl]propanoyl}amino)phenyl]methyl}-3,4-dihydroquinazoline-2-carboxamide | 232.0 mg, 86% | C(#N)C=1C=C2C(NC(=NC2=CC1)C(=O)NCC1=CC(=CC=C1)NC(CCC1=NN(C=N1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=O)=O | C41H32N8O3
